US09388189B2
(S)-tert-Butyl 4-(4-(4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)piperazine-1-carboxylate
To a solution of (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (70 mg, 0.16 mmol) in dioxane (2 ml) was added (4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)boronic acid (73 mg, 0.24 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (12 mg, 0.01 mmol) and 159 μl of a 2M aqueous solution of cesium carbonate. The mixture was stirred under argon atmosphere at 100° C. for 18 hours and then diluted with ethyl acetate. The resulting solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The product was purified by reverse phase using SP1® Purification System to give 75 mg (74% yield) as a white solid. Purity 99%.

reactant | (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.16 mmol, 70 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | (4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)boronic acid | 0.24 mmol, 73 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)B(O)O | C15H23BN2O4
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-tert-Butyl 4-(4-(4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)piperazine-1-carboxylate | 74% yield | NC1=NC=NC(=C1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C34H39N9O3
